US06921821B2
6-Chloro-4-[1-(3,4-dimethyl-benzyl)-piperidin-4-ylamino]-chromen-2-one (II-71)
Prepared from 6-Chloro-4-(piperidin-4-ylamino)-chromen-2-one and 3,4-dimethyl benzaldehyde in a manner analogous to that described above. MS (ESI) m/e 397.1 (M+H)+. 1H NMR (500 MHz, MeOD-d4) δ ppm 8.12 (d, 1H), 7.60 (dd, 1H), 7.21-7.34 (m, 4H), 5.44 (s, 1H), 4.27 (s, 2H), 3.83-3.87 (m, 1H), 3.55-3.60 (m, 2H), 3.16-3.20 (m, 2H), 2.30-2.38 (m, 2H), 2.33 (s, 3H), 2.31 (s, 3H), 1.89-1.96 (m, 2H).

reactant | 6-Chloro-4-(piperidin-4-ylamino)-chromen-2-one | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCNCC1 | C14H15ClN2O2
reactant | 3,4-dimethyl benzaldehyde | CC=1C=C(C=O)C=CC1C | C9H10O
product | 6-Chloro-4-[1-(3,4-dimethyl-benzyl)-piperidin-4-ylamino]-chromen-2-one | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCN(CC1)CC1=CC(=C(C=C1)C)C | C23H25ClN2O2
